US04935509
A solution of the cis-bicyclo[3.3..0]oct-6-ene-3-one (6.2 g 0.05 mol) in 150 mL of ethyl acetate containing 0.50 g of 10% Pd/C was hydrogenated at 25 psi for 11/2 hours. The catalyst was removed by filtering through Celite and the solvent evaporated to give 6.5 g of cis-bicyclo[3.3.0]-octane-3-one (100%). TLC (SiO2, CH2Cl2) Rf =0.35 (I2, brown).

reactant | oct-6-ene-3-one | 0.05 mol, 6.2 g | CCC(CCC=CC)=O | C8H14O
solvent | ethyl acetate | 150 mL, 0.50 g | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | cis-bicyclo[3.3.0]-octane-3-one | 6.5 g, 100% | [C@@H]12CC(C[C@H]2CCC1)=O | C8H12O
